US07504413B2
(3S)-4-[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]-3-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]butyl dihydrogen phosphate
A yellow solution of (3S)-4-[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]-3-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]butyl dimethyl phosphate (475 mg, 0.804 mmol) in 30% HBr in AcOH was placed in a pre-heated (60° C.) bath for 10 min, then immediately allowed to cool to rt. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO (6 mL), filtered and purified by Gilson reverse phase HPLC (MeCN/H2O with 0.1% TFA). The MeCN of the clean fractions was removed under reduced pressure and the remaining aqueous solution was frozen and lyophilyzed overnight to give 84 mg (19%) of the title compound as a yellow powder. LC/MS (ES) m/e 564.2 (M+H)+.

reactant | (3S)-4-[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]-3-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]butyl dimethyl phosphate | 0.804 mmol, 475 mg | P(=O)(OCC[C@H](CC1=CC=C(C=C1)C=1N=C(N(C1)C)C(C)=O)NC(=O)C1=CC(=C(C=C1)OC(C)C)Cl)(OC)OC | C28H35ClN3O7P
solvent | HBr | Br | BrH
solvent | AcOH | CC(=O)O | C2H4O2
product | (3S)-4-[4-(2-acetyl-1-methyl-1H-imidazol-4-yl)phenyl]-3-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]butyl dihydrogen phosphate | 84 mg, 19% | P(=O)(OCC[C@H](CC1=CC=C(C=C1)C=1N=C(N(C1)C)C(C)=O)NC(=O)C1=CC(=C(C=C1)OC(C)C)Cl)(O)O | C26H31ClN3O7P
